US05716969
Synthesis of 4-benzylidenepiperidine hydrochloride
There was dissolved 24.6 g (96 mmol) of 1-benzyl-4-benzylidenepiperidine in 200 ml of dichloroethane and thereto 11.1 ml (102 mmol) of 1-chloroethyl chloroformate was added dropwise under cooling with ice. The reaction solution was refluxed with heating for 30 minutes and then stirred at room temperature for 1.5 hours. The reaction solution was concentrated to 80 ml by removing the solvent under reduced pressure, thereto was added 200 ml of methanol and the obtained mixture was refluxed with heating for 12 hours. The solvent was removed under reduced pressure and to the obtained residue was added 100 ml of isopropyl ether and the precipitate was separated by filtration to obtain 8.6 g of the titled compound.

reactant | 1-benzyl-4-benzylidenepiperidine | 96 mmol, 24.6 g | C(C1=CC=CC=C1)N1CCC(CC1)=CC1=CC=CC=C1 | C19H21N
reactant | 1-chloroethyl chloroformate | 102 mmol, 11.1 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloroethane | 200 ml | ClC(C)Cl | C2H4Cl2
product | 4-benzylidenepiperidine hydrochloride | 8.6 g | Cl.C(C1=CC=CC=C1)=C1CCNCC1 | InChI=1S/C12H15N.ClH/c1-2-4-11(5-3-1)10-12-6-8-13-9-7-12;/h1-5,10,13H,6-9H2;1H
